US08084623B2
Copper(I) cyanide (76 mg, 0.852 mmol) was added to a 25 mL round bottom flask charged with 3-(1-benzenesulfonyl-3-iodo-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester (143 mg, 0.213 mmol), followed by 1,1′-bis(diphenylphosphino)ferrocene (24 mg, 0.043 mmol) and tris(dibenzylideneacetone) dipalladium(0) (10 mg, 0.011 mmol). 1,4-Dioxane (1.5 mL) was then added and the mixture was heated to reflux under nitrogen atmosphere for one hour. The reaction mixture was cooled to room temperature and filtered through a celite pad. The filter cake was rinsed with EtOAc and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (30% of EtOAc in hexane) to give 115 mg (95% yield) of 3-(1-benzenesulfonyl-3-cyano-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a pale yellow foam.

reactant | Copper(I) cyanide | 0.852 mmol, 76 mg | [Cu]C#N
reactant | 3-(1-benzenesulfonyl-3-iodo-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.213 mmol, 143 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(CC1=CC=CC=C1)C(=O)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)I | C31H31IN2O5S
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.043 mmol, 24 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.011 mmol, 10 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | 1,4-Dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(1-benzenesulfonyl-3-cyano-1H-indole-5-carbonyl)-3-benzyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 115 mg, 95% yield | C(C)(C)(C)OC(=O)N1CC(CC1)(CC1=CC=CC=C1)C(=O)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C#N | C32H31N3O5S
